US07582775B2
F. Trifluoromethanesulfonic acid 2-{1-[4-(3,3-dimethyl-2-oxo-butoxy)-3-methyl-phenyl]-1-ethyl-propyl}-benzo[b]thiophen-5-yl ester
A solution of 1-{4-[1-ethyl-1-(5-hydroxy-benzo[b]thiophen-2-yl)-propyl]-2-methyl-phenoxy}-3,3-dimethyl-butan-2-one (3.21 g, 7.56 mmol) in CH2Cl2 (50 mL) at −78° C. is treated with 2,6-lutidine (1.32 mL, 11.3 mmol) and trifluoromethanesulfonic acid anhydride (1.78 mL, 10.6 mmol). The mixture is stirred and allowed to warm to −20° C. over 60 min. The mixture is quenched with water (5.0 mL). The organic layer is concentrated and purified using silica gel column chromatography (10% EtOAc/Hex) to afford the title compound (4.20 g, 99%).

reactant | 1-{4-[1-ethyl-1-(5-hydroxy-benzo[b]thiophen-2-yl)-propyl]-2-methyl-phenoxy}-3,3-dimethyl-butan-2-one | 7.56 mmol, 3.21 g | C(C)C(CC)(C1=CC2=C(S1)C=CC(=C2)O)C2=CC(=C(OCC(C(C)(C)C)=O)C=C2)C | C26H32O3S
reactant | 2,6-lutidine | 11.3 mmol, 1.32 mL | N1=C(C=CC=C1C)C | C7H9N
reactant | trifluoromethanesulfonic acid anhydride | 10.6 mmol, 1.78 mL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | Trifluoromethanesulfonic acid 2-{1-[4-(3,3-dimethyl-2-oxo-butoxy)-3-methyl-phenyl]-1-ethyl-propyl}-benzo[b]thiophen-5-yl ester | 4.20 g, 99% | CC(C(COC1=C(C=C(C=C1)C(CC)(CC)C1=CC2=C(S1)C=CC(=C2)OS(=O)(=O)C(F)(F)F)C)=O)(C)C | C27H31F3O5S2
